US04086347
9.55 g (0.05 mole) of N6 -n-butyladenine are added to a solution of 1.15 g (0.05 mole) of sodium in 200 ml of isopropanol and the reaction mixture is heated under reflux for 10 minutes. After cooling, 22.8 g (0.08 mole) of 3-[4-(4-fluorophenoxymethyl)-piperidino]-propyl chloride in 50 ml of isopropanol are added thereto. After boiling under reflux for 6 hours, the reaction mixture is evaporated in a vacuum and the residue is taken up in methylene chloride, washed with 2N aqueous sodium hydroxide solution and subsequently with water, dried over anhydrous sodium sulfate, evaporated and the residue is taken up in acetone and mixed with excess saturated ethereal hydrogen chloride solution. The salt which precipitates out is filtered off and recrystallized from isopropanol. There are obtained 14.6 g (57% of theory) of N6 -n-butyl-9-{3-[4-(4-fluorophenoxymethyl)-piperidino]-propyl}-adenine dihydrochloride; m.p. 180° - 182° C.

reactant | N6 -n-butyladenine | 0.05 mole, 9.55 g | C(CCC)NC1=C2NC=NC2=NC=N1 | C9H13N5
reactant | sodium | 0.05 mole, 1.15 g | [Na] | Na
reactant | 3-[4-(4-fluorophenoxymethyl)-piperidino]-propyl chloride | 0.08 mole, 22.8 g | FC1=CC=C(OCC2CCN(CC2)CCCCl)C=C1 | C15H21ClFNO
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | N6 -n-butyl-9-{3-[4-(4-fluorophenoxymethyl)-piperidino]-propyl}-adenine dihydrochloride | 14.6 g, 57% | Cl.Cl.C(CCC)NC1=C2N=CN(C2=NC=N1)CCCN1CCC(CC1)COC1=CC=C(C=C1)F | InChI=1S/C24H33FN6O.2ClH/c1-2-3-11-26-23-22-24(28-17-27-23)31(18-29-22)13-4-12-30-14-9-19(10-15-30)16-32-21-7-5-20(25)6-8-21;;/h5-8,17-19H,2-4,9-16H2,1H3,(H,26,27,28);2*1H
